US05616579
N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]pyrrole-2-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine and 2-pyrrolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as colorless prisms, melting at 136°-137° C., in an 80% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 2-pyrrolecarboxylic acid | N1C(=CC=C1)C(=O)O | C5H5NO2
product | N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]pyrrole-2-carboxamide | 80% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C=1NC=CC1 | C20H26N4O2
